US07186734B2
NaH (60% dispersion in mineral oil) (40 mg) is added to a solution of 4-{[(5-butyl-2-chloro-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester (46 mg, 0.0804 mmol) in THF (3 mL) containing isobutyl alcohol (0.5 mL) at room temperature. The mixture is stirred at room temperature for 5 minutes and then at reflux for 2 hours. Next, H2O (0.5 mL) is added and heating is continued for an additional 30 minutes. After cooling to room temperature, the reaction mixture is treated with a few drops of AcOH until pH 4–5. The mixture is then diluted with H2O and extracted twice with CH2Cl2. The combined extracts are dried over Na2SO4 and concentrated. The residue is purified by preparative TLC, eluting with 20:1 CHCl3-MeOH. The band containing the product affords 28.4 mg 4-{[(5-butyl-2-isobutoxy-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid as a colorless gum. 1H NMR (CDCl3, 300 MHz) δ 8.02 (br, 2H), 7.39 (br, 7H), 6.87 (br s, 1H), 6.78 (br s, 2H), 4.21 (br s, 4H), 4.12 (br d, J=6.3 Hz, 2H), 3.70 (br, 4H), 3.54 (br s, 2H), 2.54 (br m, 2H), 2.13 (br, 1H), 1.02 (d, J=6.3 Hz, 6H), 0.94 (br 4H), 0.60 (br, 3H) ppm. MS: m/z 596 [M+1].

reactant | NaH | 40 mg | [H-].[Na+]
reactant | 4-{[(5-butyl-2-chloro-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester | 0.0804 mmol, 46 mg | COC(C1=CC=C(C=C1)CN(CC1=CC2=C(OCCO2)C=C1)CC1=NC(=NC(=C1CCCC)C1=CC=CC=C1)Cl)=O | C33H34ClN3O4
reactant | isobutyl alcohol | 0.5 mL | C(C(C)C)O | C4H10O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | AcOH | a few drops | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
solvent | H2O | 0.5 mL | O | H2O
product | 4-{[(5-butyl-2-isobutoxy-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid | 28.4 mg | C(CCC)C=1C(=NC(=NC1C1=CC=CC=C1)OCC(C)C)CN(CC1=CC2=C(OCCO2)C=C1)CC1=CC=C(C(=O)O)C=C1 | C36H41N3O5
